US05204334
3.3 ml (0.03 mol) of ethyl acrylate are added to 5.0 g (0.023 mol) of 6-chloro-2-methylaminomethylbenzo-1,4-dioxane and the reaction mixture is allowed to stand for 60 hours at room temperature, yielding crude 3-[N-(6-chlorobenzo-1,4-dioxan-2-ylmethyl)-N-methylamino]-propionic acid ethyl ester which can be used without further purification.

reactant | ethyl acrylate | 0.03 mol, 3.3 ml | C(C=C)(=O)OCC | C5H8O2
reactant | 6-chloro-2-methylaminomethylbenzo-1,4-dioxane | 0.023 mol, 5.0 g | ClC1=CC2=C(OC(CO2)CNC)C=C1 | C10H12ClNO2
product | 3-[N-(6-chlorobenzo-1,4-dioxan-2-ylmethyl)-N-methylamino]-propionic acid ethyl ester | C(C)OC(CCN(C)CC1COC2=C(O1)C=CC(=C2)Cl)=O | C15H20ClNO4
